US07705025B2
[2-(S)-(2-(R)-methyl-pyrrolidin-1-ylmethyl)-pyrrolidin-1-yl]-{4-[5-(pyrrolidine-1-carbonyl)-thiazol-2-yl]-phenyl}-methanone
The title compound is prepared in a manner substantially analogous to General Procedure A using [2-(S)-(2-(R)-methyl-pyrrolidin-1-ylmethyl)-pyrrolidin-1-yl]-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-methanone (199 mg, 0.5 mmol) and (2-bromo-thiazol-5-yl)-pyrrolidin-1-yl-methanone (120 mg, 0.46 mmol) to give 30 mg (14% yield). MS (ES+) 453.3 (M+H)+

reactant | [2-(S)-(2-(R)-methyl-pyrrolidin-1-ylmethyl)-pyrrolidin-1-yl]-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-methanone | 0.5 mmol, 199 mg | C[C@H]1N(CCC1)C[C@H]1N(CCC1)C(=O)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C23H35BN2O3
reactant | (2-bromo-thiazol-5-yl)-pyrrolidin-1-yl-methanone | 0.46 mmol, 120 mg | BrC=1SC(=CN1)C(=O)N1CCCC1 | C8H9BrN2OS
product | [2-(S)-(2-(R)-methyl-pyrrolidin-1-ylmethyl)-pyrrolidin-1-yl]-{4-[5-(pyrrolidine-1-carbonyl)-thiazol-2-yl]-phenyl}-methanone | 14% yield | C[C@H]1N(CCC1)C[C@H]1N(CCC1)C(=O)C1=CC=C(C=C1)C=1SC(=CN1)C(=O)N1CCCC1 | C25H32N4O2S
